US06949542B2
4-[2,3′]Bipyridinyl-4-yl-7-(2,2,2-trifluoro-ethoxy)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from [2-(3-[2,3′]bipyridinyl-4-yl-3-oxo-propionylamino)-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example M296) (305 mg, 0.51 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (201 mg, 82%).

reactant | [2-(3-[2,3′]bipyridinyl-4-yl-3-oxo-propionylamino)-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.51 mmol, 305 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)NC(CC(=O)C1=CC(=NC=C1)C=1C=NC=CC1)=O)=O | C27H24F6N4O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[2,3′]Bipyridinyl-4-yl-7-(2,2,2-trifluoro-ethoxy)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | N1=C(C=C(C=C1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)OCC(F)(F)F)C(F)(F)F)C=2C=NC=CC2 | C22H14F6N4O2
